US04244957
Preparation of 1-benzyloxy-2-[(2,6-dichlorophenyl)imino]imidazolidine
400 ml. of water are added to 143.5 g. of N-(benzyloxy)ethylenediamine dihydrochloride. 270.0 g. of potassium carbonate are gradually added carefully to this suspension. Thereafter, 200 ml. of toluene and then, slowly, 145.7 g. of 2,6 -dichlorophenylimidocarbonyl chloride in 100 ml. of toluene are added dropwise in the course of 45 minutes, while stirring vigorously. After 15 minutes, a product begins to separate out. The mixture is further stirred overnight and then poured onto 1 liter of n-hexane. The precipitate is filtered off and washed with water and with n-hexane, whereupon 1-benzyloxy-2-[(2,6-dichlorophenyl)imino]imidazolidine, m.p. 114-117°, is obtained.

reactant | water | O | H2O
reactant | N-(benzyloxy)ethylenediamine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)ONCCN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6 -dichlorophenylimidocarbonyl chloride | ClC1=C(C(=CC=C1)Cl)C(=N)Cl | C7H4Cl3N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-benzyloxy-2-[(2,6-dichlorophenyl)imino]imidazolidine | C(C1=CC=CC=C1)ON1C(NCC1)=NC1=C(C=CC=C1Cl)Cl | C16H15Cl2N3O
